* # FILE NAME: /NFS/STAK/STUDENTS/G/GOYNESE/CADENCE/SIMULATION/FULLADDER/       
* HSPICES/EXTRACTED/NETLIST/FULLADDER.C.RAW
* NETLIST OUTPUT FOR HSPICES.
* GENERATED ON FEB 22 19:04:03 2014
   
* FILE NAME: ECE471_FULLADDER_EXTRACTED.S.
* SUBCIRCUIT FOR CELL: FULLADDER.
* GENERATED FOR: HSPICES.
* GENERATED ON FEB 22 19:04:03 2014.
   
C22 GND C_IN  3.4056096E-15 M=1.0 
C23 GND B  5.1077712E-15 M=1.0 
C24 GND VDD  5.8515504E-15 M=1.0 
C25 GND A  5.505204E-15 M=1.0 
C26 C_OUT GND  3.8275104E-15 M=1.0 
C27 GND 5  2.87685E-15 M=1.0 
C28 C_OUT GND  2.3824152E-15 M=1.0 
M29 C_OUT C_IN 16 VDD  TSMC25DP  L=239.99999143598E-9 W=5.76000002183719E-6 
+AD=3.45600002608915E-12 AS=3.45600002608915E-12 PD=6.96000006428221E-6 
+PS=6.96000006428221E-6 M=1 
M30 16 B VDD VDD  TSMC25DP  L=239.99999143598E-9 W=5.76000002183719E-6 
+AD=3.45600002608915E-12 AS=3.45600002608915E-12 PD=6.96000006428221E-6 
+PS=6.96000006428221E-6 M=1 
M31 16 A VDD VDD  TSMC25DP  L=239.99999143598E-9 W=5.76000002183719E-6 
+AD=3.45600002608915E-12 AS=3.45600002608915E-12 PD=6.96000006428221E-6 
+PS=6.96000006428221E-6 M=1 
M32 5 C_OUT 18 VDD  TSMC25DP  L=239.99999143598E-9 W=1.91999993148784E-6 
+AD=1.15200004483645E-12 AS=1.15200004483645E-12 PD=3.11999997393286E-6 
+PS=3.11999997393286E-6 M=1 
M33 18 C_IN VDD VDD  TSMC25DP  L=239.99999143598E-9 W=1.91999993148784E-6 
+AD=1.15200004483645E-12 AS=1.15200004483645E-12 PD=3.11999997393286E-6 
+PS=3.11999997393286E-6 M=1 
M34 18 B VDD VDD  TSMC25DP  L=239.99999143598E-9 W=1.91999993148784E-6 
+AD=1.15200004483645E-12 AS=1.15200004483645E-12 PD=3.11999997393286E-6 
+PS=3.11999997393286E-6 M=1 
M35 18 A VDD VDD  TSMC25DP  L=239.99999143598E-9 W=1.91999993148784E-6 
+AD=1.15200004483645E-12 AS=1.15200004483645E-12 PD=3.11999997393286E-6 
+PS=3.11999997393286E-6 M=1 
M36 C_OUT A 17 VDD  TSMC25DP  L=239.99999143598E-9 W=1.91999993148784E-6 
+AD=1.15200004483645E-12 AS=1.15200004483645E-12 PD=3.11999997393286E-6 
+PS=3.11999997393286E-6 M=1 
M37 17 B VDD VDD  TSMC25DP  L=239.99999143598E-9 W=1.91999993148784E-6 
+AD=1.15200004483645E-12 AS=1.15200004483645E-12 PD=3.11999997393286E-6 
+PS=3.11999997393286E-6 M=1 
M38 5 C_IN 20 VDD  TSMC25DP  L=239.99999143598E-9 W=2.88000001091859E-6 
+AD=1.72800001304457E-12 AS=1.72800001304457E-12 PD=4.08000005336362E-6 
+PS=4.08000005336362E-6 M=1 
M39 20 B 19 VDD  TSMC25DP  L=239.99999143598E-9 W=2.88000001091859E-6 
+AD=1.72800001304457E-12 AS=1.72800001304457E-12 PD=4.08000005336362E-6 
+PS=4.08000005336362E-6 M=1 
M40 19 A VDD VDD  TSMC25DP  L=239.99999143598E-9 W=2.88000001091859E-6 
+AD=1.72800001304457E-12 AS=1.72800001304457E-12 PD=4.08000005336362E-6 
+PS=4.08000005336362E-6 M=1 
M41 15 C_OUT VDD VDD  TSMC25DP  L=239.99999143598E-9 W=4.80000016978011E-6 
+AD=2.88000005788103E-12 AS=2.88000005788103E-12 PD=6.00000021222513E-6 
+PS=6.00000021222513E-6 M=1 
M42 14 5 VDD VDD  TSMC25DP  L=239.99999143598E-9 W=4.80000016978011E-6 
+AD=2.88000005788103E-12 AS=2.88000005788103E-12 PD=6.00000021222513E-6 
+PS=6.00000021222513E-6 M=1 
M43 C_OUT C_IN 1 GND  TSMC25DN  L=239.99999143598E-9 W=2.88000001091859E-6 
+AD=1.72800001304457E-12 AS=1.72800001304457E-12 PD=4.08000005336362E-6 
+PS=4.08000005336362E-6 M=1 
M44 1 B GND GND  TSMC25DN  L=239.99999143598E-9 W=2.88000001091859E-6 
+AD=1.72800001304457E-12 AS=1.72800001304457E-12 PD=4.08000005336362E-6 
+PS=4.08000005336362E-6 M=1 
M45 1 A GND GND  TSMC25DN  L=239.99999143598E-9 W=2.88000001091859E-6 
+AD=1.72800001304457E-12 AS=1.72800001304457E-12 PD=4.08000005336362E-6 
+PS=4.08000005336362E-6 M=1 
M46 5 C_OUT 3 GND  TSMC25DN  L=239.99999143598E-9 W=959.999965743918E-9 
+AD=576.000022418227E-15 AS=576.000022418227E-15 PD=2.15999989450211E-6 
+PS=2.15999989450211E-6 M=1 
M47 4 21 3 GND  TSMC25DN  L=239.99999143598E-9 W=959.999965743918E-9 
+AD=576.000022418227E-15 AS=576.000022418227E-15 PD=2.15999989450211E-6 
+PS=2.15999989450211E-6 M=1 
M48 3 B GND GND  TSMC25DN  L=239.99999143598E-9 W=959.999965743918E-9 
+AD=576.000022418227E-15 AS=576.000022418227E-15 PD=2.15999989450211E-6 
+PS=2.15999989450211E-6 M=1 
M49 3 A GND GND  TSMC25DN  L=239.99999143598E-9 W=959.999965743918E-9 
+AD=576.000022418227E-15 AS=576.000022418227E-15 PD=2.15999989450211E-6 
+PS=2.15999989450211E-6 M=1 
M50 C_OUT A 2 GND  TSMC25DN  L=239.99999143598E-9 W=959.999965743918E-9 
+AD=576.000022418227E-15 AS=576.000022418227E-15 PD=2.15999989450211E-6 
+PS=2.15999989450211E-6 M=1 
M51 2 B GND GND  TSMC25DN  L=239.99999143598E-9 W=959.999965743918E-9 
+AD=576.000022418227E-15 AS=576.000022418227E-15 PD=2.15999989450211E-6 
+PS=2.15999989450211E-6 M=1 
M52 5 C_IN 13 GND  TSMC25DN  L=239.99999143598E-9 W=1.4400000054593E-6 
+AD=864.000006522286E-15 AS=864.000006522286E-15 PD=2.64000004790432E-6 
+PS=2.64000004790432E-6 M=1 
M53 13 A 6 GND  TSMC25DN  L=239.99999143598E-9 W=1.4400000054593E-6 
+AD=864.000006522286E-15 AS=864.000006522286E-15 PD=2.64000004790432E-6 
+PS=2.64000004790432E-6 M=1 
M54 6 B GND GND  TSMC25DN  L=239.99999143598E-9 W=1.4400000054593E-6 
+AD=864.000006522286E-15 AS=864.000006522286E-15 PD=2.64000004790432E-6 
+PS=2.64000004790432E-6 M=1 
M55 15 C_OUT GND GND  TSMC25DN  L=239.99999143598E-9 W=2.40000008489005E-6 
+AD=1.44000002894051E-12 AS=1.44000002894051E-12 PD=3.5999998999614E-6 
+PS=3.5999998999614E-6 M=1 
M56 14 5 GND GND  TSMC25DN  L=239.99999143598E-9 W=2.40000008489005E-6 
+AD=1.44000002894051E-12 AS=1.44000002894051E-12 PD=3.5999998999614E-6 
+PS=3.5999998999614E-6 M=1 
   
   
   
   
   
* INCLUDE FILES
   
   
   
   
   
   
* END OF NETLIST
.TEMP    25.0000    
.OP
.save
.OPTION  INGOLD=2 ARTIST=2 PSF=2
+        PROBE=0
.END
